### PR TITLE
[Merged by Bors] - feat: `swap_var` tactic

### PR DESCRIPTION
**Pull request by arthurpaulino**

### CODE REVIEW

File: test/SwapVar.lean [hunk 1]
```diff
@@ -0,0 +1,22 @@
...
+example {a b : Nat} (h : a = b) : a = b ∧ a = a := by
+  swap_var a ↔ b
+-- b a: Nat
+-- h: b = a
+-- ⊢ b = a ∧ b = b
+  swap_var b y, y ↔ x
+-- x a: Nat
+-- h: x = a
+-- ⊢ x = a ∧ x = x
+  exact .intro h $ .refl x
```
Comment (digama0) [inline test/SwapVar.lean:22]:
```suggestion
example {P Q : Prop} (q : P) (p : Q) : P ∧ Q := by
  swap_var p ↔ q
  exact ⟨p, q⟩

example {a b : Nat} (h : a = b) : a = b ∧ a = a := by
  swap_var a ↔ b
  guard_hyp h : b = a
  guard_target == b = a ∧ b = b
  exact ⟨h, Eq.refl b⟩

example {a b c d : Nat} (h : a = b ∧ c = d) : a = b ∧ c = d := by
  swap_var a ↔ b, b c
  guard_target == c = a ∧ b = d
  exact h
```
Removed the test with `y` because the lean 3 semantics throws an error when a variable in the cycle is not present in the context.

File: Mathlib/Tactic/SwapVar.lean [hunk 2]
```diff
@@ -0,0 +1,46 @@
...
+    let temp := ctx.getUnusedName `__h
+    let ctxNew := vars.foldl (init := ctx) fun acc pair =>
+      acc.renameUserName pair.1 temp
+        |>.renameUserName pair.2 pair.1
+        |>.renameUserName temp pair.2
+    liftMetaTactic fun mvarId => do
+      let mvarIdNew ← mkFreshExprMVarAt ctxNew (← getLocalInstances) (← getMVarType mvarId)
+        .syntheticOpaque (← getMVarTag mvarId)
+      assignExprMVar mvarId mvarIdNew
+      return [mvarIdNew.mvarId!]
```
Comment (digama0) [inline Mathlib/Tactic/SwapVar.lean:46]:
```suggestion
elab "swap_var " vars:(colGt (ident " ↔ "? ident)),+ : tactic =>
  liftMetaTactic fun mvarId => do
    let mut ctx ← getLCtx
    for stx in vars.getElems do
      let getDecl (stx : Syntax) :=
        match ctx.findFromUserName? stx.getId with
        | some decl => pure (stx.getId, decl.fvarId)
        | none => throwErrorAt stx "swap_var: unknown variable {stx.getId}"
      let (n1, fvar1) ← getDecl stx.raw[0]
      let (n2, fvar2) ← getDecl stx.raw[2]
      ctx := ctx.setUserName fvar1 n2
      ctx := ctx.setUserName fvar2 n1
    let mvarIdNew ← mkFreshExprMVarAt ctx (← getLocalInstances) (← getMVarType mvarId)
      .syntheticOpaque (← getMVarTag mvarId)
    assignExprMVar mvarId mvarIdNew
    return [mvarIdNew.mvarId!]
```
Rather than doing a three-point swap, it is possible to just look up the fvars and then rename them directly. This also behaves better in the case where two of the selected variables have the same name. Moving `getDecl` outside the loop is also possible and gives a simultaneous substitution, but this doesn't match the lean 3 behavior and is also less useful since longer cycles can be constructed from overlapping swaps, like in the test.

File: Mathlib/Tactic/SwapVar.lean [hunk 3]
```diff
@@ -0,0 +1,28 @@
...
+A *swap_rule* is of the form `x y` or `x ↔ y`, and "applying it" means swapping the variable name
+`x` by `y` and vice-versa on all hypotheses and the goal.
+
+```lean
+example {P Q : Prop} (q : P) (p : Q) : P ∧ Q := by
+  swap_var p ↔ q
+  exact ⟨p, q⟩
+```
+-/
+elab "swap_var " vars:(colGt (ident " ↔ "? ident)),+ : tactic =>
```
Comment (gebner) [inline Mathlib/Tactic/SwapVar.lean:23]:
```suggestion
syntax swapRule := ident " ↔ "? ident
elab "swap_var " vars:(colGt swapRule),+ : tactic =>
```
And then you can pattern match on it with ``let `(swapRule| $n1 $[↔]? $n2) := stx | unreachable!`` in the body.  Please avoid direct syntax accesses with `stx.raw[0][2]`, etc.  These are really awful to maintain and come with no static kind checks.

Comment (arthurpaulino) [reply Mathlib/Tactic/SwapVar.lean:23]: Lean does not accept `let `(swapRule| $n1 $[↔]? $n2) := stx | unreachable!`

**Review by kim-em — APPROVED** [review]
LGTM
